US06268387B1
Step C: N-(3-Amino-4-methoxyphenyl)-benzamide
Prepared according to the procedure described for Example 9, Step B using N-(4-methoxy-3-nitrophenyl)-benzamide (3.68 g, 13.5 mmol) and zinc dust (20 g) to give the product (2.5 g) after chromatography on silica gel in ethyl acetate/hexane and recrystallization from the same solvent.

reactant | N-(4-methoxy-3-nitrophenyl)-benzamide | 13.5 mmol, 3.68 g | COC1=C(C=C(C=C1)NC(C1=CC=CC=C1)=O)[N+](=O)[O-] | C14H12N2O4
catalyst | zinc | 20 g | [Zn] | Zn
product | N-(3-Amino-4-methoxyphenyl)-benzamide | 2.5 g | NC=1C=C(C=CC1OC)NC(C1=CC=CC=C1)=O | C14H14N2O2
